US09375009B2
2-(3-{2-[1-(N,N-Dimethylglycyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate (X-1)
To 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride (500 mg) in dimethylformamide (6 ml) under argon were added N,N-dimethylglycine (122 mg), diisopropylethylamine (582 mg) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU, 542 mg). The reaction mixture was stirred at room temperature for 18 hours. Then ice-cold sodium hydrogencarbonate solution was added thereto, the mixture was filtered, and the aqueous phase was removed and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. This gave 2-(3-{2-[1-(N,N-dimethylglycyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate (310 mg, 55%).

reactant | 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride | 500 mg | [Cl-].CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | N,N-dimethylglycine | 122 mg | CN(CC(=O)O)C | C4H9NO2
reactant | diisopropylethylamine | 582 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 542 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(3-{2-[1-(N,N-Dimethylglycyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate | CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CN(C)C)=O | C22H28N4O5S2
